US07405210B2
2-(S)-[(5-Chloro-1H-pyrrolo[2,3-b]pyridine-2-carbonyl)amino]-3-(4-fluorophenyl)-propionic acid tert-butyl ester
To a solution of 5-chloro-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid (Preparation 57, 500 mg, 2.54 mmol) in DMF (20 mL) was added 2-(S)-amino-3-(4-fluorophenyl)propionic acid tert-butyl ester hydrochloride (Preparation 114, 701 mg, 2.54 mmol), HOBt (344 mg, 2.54 mmol) and DIPEA (1.4 mL, 7.88 mmol). After 5 min, EDCI (634 mg, 3.31 mmol) was added and the reaction mixture stirred at rt for 72 h. The solvent was removed in vacuo and the solid partitioned between water (50 mL) and ethyl acetate (3×40 mL). The combined organic phase was washed with brine (20 mL), dried (MgSO4), concentrated in vacuo and purified by chromatography on silica gel eluting with methanol:dichloromethane (1:99) to give the title compound. δH (CD3OD): 1.42 (9H, s), 3.09 (1H, dd), 3.22 (1H, dd), 4.76 (1H, m), 6.98 (2H, m), 7.07 (1H, s), 7.27 (2H, m), 8.06 (1H, d), 8.28 (1H, d); m/z (ES+)=418 [M+H]+.

reactant | 5-chloro-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid | 2.54 mmol, 500 mg | ClC=1C=C2C(=NC1)NC(=C2)C(=O)O | C8H5ClN2O2
reactant | 2-(S)-amino-3-(4-fluorophenyl)propionic acid tert-butyl ester hydrochloride | 2.54 mmol, 701 mg | Cl.C(C)(C)(C)OC([C@H](CC1=CC=C(C=C1)F)N)=O
reactant | HOBt | 2.54 mmol, 344 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 7.88 mmol, 1.4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 3.31 mmol, 634 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(S)-[(5-Chloro-1H-pyrrolo[2,3-b]pyridine-2-carbonyl)amino]-3-(4-fluorophenyl)-propionic acid tert-butyl ester | C(C)(C)(C)OC([C@H](CC1=CC=C(C=C1)F)NC(=O)C1=CC=2C(=NC=C(C2)Cl)N1)=O | C21H21ClFN3O3
